US05155113
Preparation of 4-butanoyloxy-5-chloro-2-pyridone
The general procedure of Example 3 was followed using 2.00 g of 5-chloro-4-hydroxy-2-pyridone and 2.20 g of butanoyloxy chloride, thereby producing 0.38 g of the title compound in a yield of 13%.

reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | butanoyloxy chloride | 2.20 g | C(CCC)(=O)OCl | C4H7ClO2
product | 4-butanoyloxy-5-chloro-2-pyridone | 0.38 g, yield of 13% | C(CCC)(=O)OC1=CC(NC=C1Cl)=O | C9H10ClNO3
